US07109184B2
((10-undecenyl)-ethoxyphosphinyl) methylphosphonic acid dimethyl ester
A 2.5 M solution of n-butyllithium in hexane (9.4 mL, 23.5 mmol) was added dropwise with stirring to methylphosphonic acid dimethyl ester (2.65 g, 21.4 mmol) in 100 mL of anhydrous tetrahydrofuran at −78° C. under a nitrogen atmosphere. After 30 minutes, (10-undecenyl)phosphono chloridic acid, ethyl ester (3 g, 10.68 mrnol) was added dropwise while stirring was continued. The reaction was stirred at −78° C. for 2 hours then warmed to −50° C. and stirred for an additional 2 hours. Saturated ammonium chloride was then added to neutralize the excess base and the reaction was allowed to warm to ambient temperature. The volatiles were removed by rotary evaporation to give a viscous liquid. This liquid was diluted with ethyl acetate (200 mL) and extracted twice with water (100 mL). The organic layer was collected and dried over sodium sulfate, filtered and concentrated under rotary evaporation to give a viscous liquid. The product was then placed on a high vacuum pump to remove any remaining volatiles (3.07 g, 78% yield).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 23.5 mmol, 9.4 mL | CCCCCC | C6H14
reactant | methylphosphonic acid dimethyl ester | 21.4 mmol, 2.65 g | COP(OC)(=O)C | C3H9O3P
reactant | (10-undecenyl)phosphono chloridic acid, ethyl ester | 3 g | C(CCCCCCCCC=C)P(OCC)(=O)Cl | C13H26ClO2P
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | ((10-undecenyl)-ethoxyphosphinyl) methylphosphonic acid dimethyl ester | 78% yield | COP(OC)(=O)CP(=O)(OCC)CCCCCCCCCC=C | C16H34O5P2
